US08034812B2
Production of 3-methoxy-1-methyl-N-{2-methyl-5-[(2-{[(2-methylcyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide
Using 3-methoxy-1-methyl-1H-pyrazole-5-carboxylic acid (194 mg, 1.24 mmol), tetrahydrofuran (4.5 mL), N,N-dimethylformamide (30 μL, 0.39 mmol), oxalyl chloride (109 μL, 1.22 mmol), N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylcyclopropanecarboxamide (300 mg, 0.89 mmol) and N,N-dimethylacetamide (6.0 mL), and in the same manner as in Example 249, the title compound (291 mg, 69%) was obtained as a white powder.

reactant | 3-methoxy-1-methyl-1H-pyrazole-5-carboxylic acid | 1.24 mmol, 194 mg | COC1=NN(C(=C1)C(=O)O)C | C6H8N2O3
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.22 mmol, 109 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylcyclopropanecarboxamide | 0.89 mmol, 300 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3C(C3)C)C=CC1C | C18H19N5O2
solvent | N,N-dimethylacetamide | 6.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
product | 3-methoxy-1-methyl-N-{2-methyl-5-[(2-{[(2-methylcyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 291 mg, 69% | COC1=NN(C(=C1)C(=O)NC1=C(C=CC(=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2C(C2)C)C)C | C24H25N7O4
